* source LAB1
R_R1         N01246 0  5.6k TC=0,0 
V_V1         N01221 0 12Vdc
D_D1         N01221 N01228 Dbreak 
R_R2         N01228 N01246  3.3k TC=0,0 
D_D2         N01228 N01246 Dbreak 
